US07247740B2
17.74 g (0.1182 mol) of trifluoromethanesulfonic acid are introduced into a round-bottomed flask fitted with a reflux condenser. 21.41 g (0.1177 mol) of trichloroacetyl chloride are added over the course of 2 minutes with constant stirring. 10.60 g (0.1177 mol) of dimethyl carbonate are then added over the course of 5 minutes without cooling the mixture. The reaction mixture warms slightly and is heated at 80-100° C. for 7 hours in an oil bath (temperature in the oil bath) with stirring until the evolution of gas ceases. After cooling to room temperature, the mixture is distilled under atmospheric pressure, giving 17.48 g (yield: 90.5%) of methyl trifluoromethanesulfonate as a transparent, colourless liquid (boiling range 98-100° C.).

reactant | trifluoromethanesulfonic acid | 0.1182 mol, 17.74 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | trichloroacetyl chloride | 0.1177 mol, 21.41 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | dimethyl carbonate | 0.1177 mol, 10.60 g | C(OC)(OC)=O | C3H6O3
product | methyl trifluoromethanesulfonate | 17.48 g, yield: 90.5% | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
